US07691882B2
4-Methyl-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine
To an acetic acid (20.0 mL) solution of 4-(4-methyl-pyridin-2-yloxymethyl)-benzaldehyde (2.60 g, 11.5 mmol) described in Manufacturing Example 43-1-2 were added nitromethane (3.50 g, 57.3 mmol) and ammonium acetate (1.76 g, 22.9 mmol) at room temperature under nitrogen atmosphere, which was stirred for 4 hours at 100° C. Water and ethyl acetate were added to the reaction mixture, and the organic layer was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (3.40 g) as a crude product.

reactant | acetic acid | 20.0 mL | C(C)(=O)O | C2H4O2
reactant | 4-(4-methyl-pyridin-2-yloxymethyl)-benzaldehyde | 11.5 mmol, 2.60 g | CC1=CC(=NC=C1)OCC1=CC=C(C=O)C=C1 | C14H13NO2
reactant | nitromethane | 57.3 mmol, 3.50 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 22.9 mmol, 1.76 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-Methyl-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 3.40 g | CC1=CC(=NC=C1)OCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O3
